US07612067B2
Preparation of {5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophen-2-yl}-phenyl-methanone
To a −78° C. solution of 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.30 g, 0.76 mmol) and THF (5 mL) is added 1.30 M n-Bu-Li (0.50 mL, 0.80 mmol). After 30 minutes N-methoxy-N-methyl-benzamide (0.13 mL, 0.84 mmol) is added, the solution is warmed to ambient temperature, and stirred overnight. The solution is diluted with EtOAc (20 mL), washed with sat. NH4Cl (15 mL), water (15 mL), brine (15 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient) furnish the title compound (0.066 g, 0.16 mmol, 21%). 1H NMR (CDCl3), δ 0.89 (t, J=7.4 Hz, 6H), 1.74-1.93 (m, 4H), 2.18 (s, 3H), 2.52 (s, 3H), 2.54 (s, 3H), 3.29-3.38 (m, 1H), 6.71 (s, 1H), 7.49-7.54 (m, 2H), 7.56 (s, 1H), 7.57-7.62 (m, 1H), 7.89-7.94 (m, 2H). LC/MS (m/z): calcd. for C25H27N3OS (M+H)+: 418.2; found: 418.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.76 mmol, 0.30 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | n-Bu-Li | 0.80 mmol, 1.30 M, 0.50 mL | C(CCC)[Li]
reactant | N-methoxy-N-methyl-benzamide | 0.84 mmol, 0.13 mL | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | {5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophen-2-yl}-phenyl-methanone | 0.16 mmol, 0.066 g, 21% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C=C(S2)C(=O)C2=CC=CC=C2)C | C25H27N3OS
